US07592373B2
4.270.b. 3-methoxy-4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylamine
Prepared analogously to Example 3.1.b. from 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-4-methylpiperidine. Yield: 0.51 g (81.1% of theory); C15H24N2O2 (M=264.37); calc.: molecular ion peak (M+H)+: 265; found: molecular ion peak (M+H)+: 265; Rf value: 0.3 (silica gel, dichloromethane/methanol (9:1)).

reactant | 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]-4-methylpiperidine | COC1=C(OCCN2CCC(CC2)C)C=CC(=C1)[N+](=O)[O-] | C15H22N2O4
solvent | dichloromethane methanol | ClCCl.CO
product | 3-methoxy-4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylamine | COC=1C=C(C=CC1OCCN1CCC(CC1)C)N | C15H24N2O2
